US05536701
1-(Tetrahydro-2H-pyran-2-yl)-3-(trifluoromethyl)-1H-pyrazol-5-ol (2.37 g, 0.010 mole), 3-chloro-5-methoxypyridazine (1.39 g, 0.0096 mole), toluene (60 mL), and 2,6 lutidine (1.5 g, 0.014 mole) were heated and held at reflux for 3 hours. The mixture was cooled, diluted with 100 mL of dichloromethane, and washed with 1% hydrochloric acid followed by 1% sodium hydroxide solution. The washed solution was dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed on silica gel using ethyl acetate/cyclohexane to give 5-methoxy-3-[[1-(tetrahydro-2H-pyran-2-yl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine (1.96 g, 59% yield) as a white solid.

reactant | 1-(Tetrahydro-2H-pyran-2-yl)-3-(trifluoromethyl)-1H-pyrazol-5-ol | 0.010 mole, 2.37 g | O1C(CCCC1)N1N=C(C=C1O)C(F)(F)F | C9H11F3N2O2
reactant | 3-chloro-5-methoxypyridazine | 0.0096 mole, 1.39 g | ClC=1N=NC=C(C1)OC | C5H5ClN2O
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2,6 lutidine | 0.014 mole, 1.5 g | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5-methoxy-3-[[1-(tetrahydro-2H-pyran-2-yl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine | 1.96 g, 59% yield | COC=1C=C(N=NC1)OC1=CC(=NN1C1OCCCC1)C(F)(F)F | C14H15F3N4O3
